US04186112
Aqueous solutions which contained stoichiometric proportions of MgCl2, ammonium chloride and potassium ferrocyanide, respectively, were united so as to produce magnesium-ammonium ferrocyanide. The complex salt was dried and 10 g thereof with a particle size of 2 mm was placed in a reactor, in which it was contacted at 320° C. under a pressure of 20 atmospheres gauge with a gas mixture of CO and H2 in a ratio by volume of 1:1. The issuing gas was removed at a constant rate of 20 normal liters/h. The reaction gas contained 15.9 volume % of CH4, 0.5 volume % of C2H4, 2.35 volume % of C2H6, 0.3 volume % of C3H6 and 0.77 volume % of C3H8. A further 19 g of higher liquid hydrocarbons were obtained within 22 hours.

reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | potassium ferrocyanide | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+].[K+]
product | magnesium-ammonium ferrocyanide | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[NH4+].[Mg+2] | InChI=1S/6CN.Fe.Mg.H3N/c6*1-2;;;/h;;;;;;;;1H3/q;;;;;;-4;+2;/p+1
